US07220759B2
The entire amount of 3,5-dimethyl-2-hydroxymethylpyrrolidine hydrochloride was dissolved in aqueous potassium carbonate solution (50 mL) and chloroform (50 mL), and acrylonitrile (20 mL) was added. The mixture was heated under reflux for 2 hr. After the completion of the reaction, the organic layer was separated and dried over magnesium sulfate. The solvent was concentrated and the obtained residue was purified by silica gel column chromatography. The fraction eluted with chloroform:methanol=40:1 was concentrated to give 3-(3,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl)propionitrile (2.3 g).

reactant | 3,5-dimethyl-2-hydroxymethylpyrrolidine hydrochloride | Cl.CC1C(NC(C1)C)CO
reactant | acrylonitrile | 20 mL | C(C=C)#N | C3H3N
solvent | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(3,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl)propionitrile | 2.3 g | CC1C(N(C(C1)C)CCC#N)CO | C10H18N2O
